US06555577B1
(E)-Ethyl 3-[1,1′;3′,1″]terphenyl-4″-yl-but-2-enoate (1.02 g, 68% yield) was prepared from 3-biphenylboronic acid (1.31 g, 6.60 mmol) and (E)-ethyl 3-(4-bromophenyl)-but-2-enoate (1.0 g, 4.40 mmol) by a procedure analogous to that described in example 52a.

reactant | 3-biphenylboronic acid | 6.60 mmol, 1.31 g | C1(=CC(=CC=C1)B(O)O)C1=CC=CC=C1 | C12H11BO2
reactant | (E)-ethyl 3-(4-bromophenyl)-but-2-enoate | 4.40 mmol, 1.0 g | BrC1=CC=C(C=C1)/C(=C/C(=O)OCC)/C | C12H13BrO2
product | (E)-Ethyl 3-[1,1′;3′,1″]terphenyl-4″-yl-but-2-enoate | 1.02 g, 68% yield | C1(=CC=CC=C1)C1=CC(=CC=C1)C1=CC=C(C=C1)/C(=C/C(=O)OCC)/C | C24H22O2
